US05236952
ac) A solution of 29.0 g of 2-bromo-4'-hydroxy-3'-methoxy-5'-nitroacetophenone and 13.5 g of 2-aminoacetophenone in 250 ml of dry N,N-dimethylformamide is stirred at 90° for 16 hours. The reaction mixture is then evaporated to about two thirds and poured on to ice. The separated crystals are filtered under suction and dissolved in methylene chloride. The solution is washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated. There is obtained 2-(4-hydroxy-3-methoxy-5-nitrobenzoyl)-3-methylindole of m.p. 195°-197° (from methylene chloride/methanol).

reactant | 2-bromo-4'-hydroxy-3'-methoxy-5'-nitroacetophenone | 29.0 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC | C9H8BrNO5
reactant | 2-aminoacetophenone | 13.5 g | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 2-(4-hydroxy-3-methoxy-5-nitrobenzoyl)-3-methylindole | OC1=C(C=C(C(=O)C=2NC3=CC=CC=C3C2C)C=C1[N+](=O)[O-])OC | C17H14N2O5
